US04020094
1.0 G. of (5-oxo-5H-dibenzo[a,d]cyclohepten-2yl)-propionic acid is dissolved in 25 ml. of chloroform, and 1 ml. of thionyl chloride and 0.1 ml. of dimethylformamide are added thereto. The mixture is left for 3 hrs., then evaporated to dryness. The residue is dissolved in 20 ml. of benzene and evaporated to dryness. 0.5 G of the residue is dissolved in 5 ml. of acetonitrile containing 1.0 ml. of isopentylalcohol and 1.0 ml. of triethylamine. The mixture is left at room temperature for 16 hrs., then poured into water. The solution is extracted with ether and the extract washed with water, dilute hydrochloric acid, aqueous sodium carbonate, dried and evaporated to yield the crude product which is dissolved in hexane:ether (1:1), the solution passes through silica gel, and the eluant evaporated to afford isopentyl (5-oxo-5H-dibenzo[a,d]cyclohepten-2-yl)propionate [an oil; n.m.r. spectrum in deuterochloroform relative to tetramethylsilane: 0.87 (doublet CH[CH3 ]2 ; 1.57 (doublet, CHCH3) and 7.23 ppm (singlet 10H,11H); mass spectrum: 348(M+), 278, 234, 233, 205].

reactant | (5-oxo-5H-dibenzo[a,d]cyclohepten-2yl)-propionic acid | O=C1C2=C(C=CC3=C1C=CC(=C3)C(C(=O)O)C)C=CC=C2 | C18H14O3
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | hexane ether | CCCCCC.CCOCC
product | isopentyl (5-oxo-5H-dibenzo[a,d]cyclohepten-2-yl)propionate | O=C1C2=C(C=CC3=C1C=CC(=C3)C(C(=O)OCCC(C)C)C)C=CC=C2 | C23H24O3
